US08445510B2
(4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-1-methyl-1H-pyrazol-3-yl)methanol
To a solution of 4-bromo-1-methyl-1H-pyrazole-3-carboxylic acid (20.0 mg, 0.0976 mmol) in THF (3 mL, 40 mmol) was added 1.0 M of BH3.THF in THF (0.49 mL, 0.49 mmol), and the resulting solution was heated to 60° C. overnight. The material was extracted with EtOAc and washed with sat. NaHCO3 (3×) to remove carboxylic acid starting material. The organic layer was concentrated in vacuo. 3-[(S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (15.0 mg, 0.0348 mmol), (1,1′bis-(diphenylphosphino)-ferrocene) palladium dichloride (3.57 mg, 0.00488 mmol), K2CO3 (20.2 mg, 0.146 mmol) and 4:1 dioxane:H2O (1 mL, 10 mmol) were added, and the mixture was heated to 95° C. for 30 min. The solution was used directly for HPLC purification, and the fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. 1H NMR (400 MHz, CD3OD): δ=1.80 (d, J=7.1 Hz, 3H), 3.68 (br. s., 3H), 3.90 (s, 3H), 4.45-4.55 (m, 2H), 5.10-5.16 (m, 1H), 6.89 (dd, J=9.1, 4.3 Hz, 1H), 7.07 (t, J=8.8 Hz, 1H), 7.31 (d, J=1.3 Hz, 1H), 7.65 (s, 1H), 7.68 (s, 1H), 8.27 (br. s., 1H). MS (ES+): m/z=415.12/417.13 (100/50) [MH+]. HPLC: tR=1.35 min (polar—3 min, UPLC-ACQUITY).

reactant | 4-bromo-1-methyl-1H-pyrazole-3-carboxylic acid | 0.0976 mmol, 20.0 mg | BrC=1C(=NN(C1)C)C(=O)O | C5H5BrN2O2
reactant | THF | 40 mmol, 3 mL | C1CCOC1 | C4H8O
reactant | BH3.THF | 1.0 M | B.C1CCOC1
reactant | THF | 0.49 mmol, 0.49 mL | C1CCOC1 | C4H8O
reactant | 3-[(S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)-ethyl]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 0.0348 mmol, 15.0 mg | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C | C22H25BClFN2O3
reactant | K2CO3 | 0.146 mmol, 20.2 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 10 mmol, 1 mL | O | H2O
catalyst | (1,1′bis-(diphenylphosphino)-ferrocene) palladium dichloride | 0.00488 mmol, 3.57 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-1-methyl-1H-pyrazol-3-yl)methanol | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C(=NN(C2)C)CO | C21H20ClFN4O2
